US04588733
A mixture of 2.7 g of 3-bromo-2-methoxy-5-(methylsulfonyl)pyridine, 3.1 g of α-ethenyl-3,4-dichlorobenzenemethanol, 1.3 g of sodium bicarbonate, 10 ml of dimethylformamide and 0.11 g of palladium diacetate was stirred under nitrogen and heated to 120° C. After 6 hours, thin layer chromatography showed no unreacted bromopyridine starting material. The mixture was then cooled, diluted with ethyl acetate and filtered through Celite. The ethyl acetate solution was washed with water and then twice with aqueous saturated sodium chloride solution and dried over magnesium sulfate. The solution was then filtered and concentrated to a black oil. Excess alcohol was removed by Kugelrohr distillation and the glassy residue was taken up in methylene chloride and chromatographed on silica gel to give a pale yellow solid. This was recrystallized from ethanol/ethyl acetate to give 3-[2-methoxy-5-(methylsulfonyl)-3-pyridinyl]-1-(3,4-dichlorophenyl)propan-1-one melting at about 145°-146° C.

reactant | 3-bromo-2-methoxy-5-(methylsulfonyl)pyridine | 2.7 g | BrC=1C(=NC=C(C1)S(=O)(=O)C)OC | C7H8BrNO3S
reactant | α-ethenyl-3,4-dichlorobenzenemethanol | 3.1 g | C(=C)C(O)C1=CC(=C(C=C1)Cl)Cl | C9H8Cl2O
reactant | sodium bicarbonate | 1.3 g | C([O-])(O)=O.[Na+]
reactant | bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium diacetate | 0.11 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-methoxy-5-(methylsulfonyl)-3-pyridinyl]-1-(3,4-dichlorophenyl)propan-1-one | COC1=NC=C(C=C1CCC(=O)C1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)C | C16H15Cl2NO4S
